US04185115
Preparation of p-(Phenethylamino)benzoic acid
A mixture of 16.5 g. of ethyl p-aminobenzoate, 10.3 g. of (2-bromoethyl)benzene and 50 ml. of hexamethylphosphoramide is heated in an oil bath at 115°-120° C. for 17 hours. The mixture is put into ice and water and extracted with ether. The ether extracts are washed with water, dried over magnesium sulfate and concentrated in vacuo to an oil. The oil is combined with 200 ml. of ethanol-water (9:1) and 20 g. of potassium hydroxide and the mixture is refluxed for 3.5 hours. After chilling the mixture is made acidic with concentrated hydrochloric acid, diluted with 150 ml. of water, chilled, diluted with water and extracted with chloroform. The chloroform extracts are washed with water, dried over magnesium sulfate and concentrated in vacuo to a gum. Ethanol is added, the mixture is chilled and filtered to give yellow crystals. The mother liquors are chilled at -20° C. to give a second crop of crystals. Recrystallization of the combined crops of crystals from hexane-ethanol gives yellow crystals, m.p. 123°- 125° C. Recrystallization from ethanol gives pale yellow crystals, m.p. 124°-126° C.

reactant | ethyl p-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | (2-bromoethyl)benzene | BrCCC1=CC=CC=C1 | C8H9Br
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | p-(Phenethylamino)benzoic acid | C(CC1=CC=CC=C1)NC1=CC=C(C(=O)O)C=C1 | C15H15NO2
